US07517873B2
A mixture of 0.059 g (0.00015 mole) of 4-(9-cyclobutyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-23), 0.07 g (0.000185 mole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.05 mL (0.0004 mole) of 4-amino-1-methylpiperidine, 0.1 mL of triethylamine and 3 mL of dichloromethane was stirred for 2.5 hours at ambient temperature. The mixture was concentrated under reduced pressure and the residue purified by C18 reverse phase silica gel chromatography, eluting with an acetonitrile-water gradient (10:90-100:0) to give 0.018 g of 4-(9-cyclobutyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-24).

reactant | 4-(9-cyclobutyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.00015 mole, 0.059 g | C1(CCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C20H23N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.000185 mole, 0.07 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | 4-amino-1-methylpiperidine | 0.0004 mole, 0.05 mL | NC1CCN(CC1)C | C6H14N2
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(9-cyclobutyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.018 g | C1(CCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C26H35N7O3
